US07705028B2
4c) [3-[(2,6-dichlorophenyl)methyl]-5-(1-methylethyl)-4-isoxazolyl]methanol
A solution of methyl 3-[(2,6-dichlorophenyl)methyl]-5-(1-methylethyl)-4-isoxazolecarboxylate (1.18 g, 3.6 mmol) (from multiple batches) in tetrahydrofuran (10 mL) was stirred at 0° C. as a 1.5 M solution of diisobutylaluminum hydride in toluene (3.7 mL, 5.6 mmol) was added. The solution was allowed to warm to room temperature and stir overnight. Methanol (0.27 mL) was added followed by water (2.7 mL) then 2 N sodium hydroxide (4 mL). The solution was filtered through celite. The filtrate was partitioned between ethyl acetate and water. An aqueous solution of Rochelle's salt was added. The organic layer was separated, dried with magnesium sulfate, concentrated and purified by chromatography (silica gel, 30% ethyl acetate in hexane) to provide the title compound (1.07 g, 99%). 1H NMR (DMSO-d6): δ 7.46 (d, J=8 Hz, 2H), 7.32 (t, J=8 Hz, 1H), 5.01 (t, J=5 Hz, 1H), 4.36 (d, J=5 Hz, 2H), 4.22 (s, 2H), 3.21 (septet, J=7 Hz, 1H) 1.20 (d, J=7 Hz, 6H). ESI-LCMS m/z 300 (M+H)+.

reactant | methyl 3-[(2,6-dichlorophenyl)methyl]-5-(1-methylethyl)-4-isoxazolecarboxylate | 3.6 mmol, 1.18 g | ClC1=C(C(=CC=C1)Cl)CC1=NOC(=C1C(=O)OC)C(C)C | C15H15Cl2NO3
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | toluene | 5.6 mmol, 3.7 mL | C1(=CC=CC=C1)C | C7H8
reactant | sodium hydroxide | 2 N, 4 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | 2.7 mL | O | H2O
solvent | Methanol | 0.27 mL | CO | CH4O
product | [3-[(2,6-dichlorophenyl)methyl]-5-(1-methylethyl)-4-isoxazolyl]methanol | 1.07 g, 99% | ClC1=C(C(=CC=C1)Cl)CC1=NOC(=C1CO)C(C)C | C14H15Cl2NO2
